US07691863B2
Sodium hydride (0.98 g, 25.6 mmol) was added in portions to a solution of 5-bromo-3-cyclobutylmethoxy-pyrazin-2-ylamine (3.1 g, 12.2 mmol) in N,N-dimethylformamide (60 mL) under nitrogen at room temperature. After 20 minutes 1-bromo-4-chlorobutane (1.5 mL, 13.4 mmol) was added and the reaction mixture was stirred for 16 hours. The reaction mixture was poured onto ice and the whole was extracted with ethyl acetate (50 mL) and washed with water (30 mL×2), the organic layer was dried over MgSO4 and concentrated in vacuo. The crude product was purified by flash column chromatography (30% ethyl acetate/heptane) to afford 5-bromo-3-cyclobutylmethoxy-2-pyrrolidin-1-yl-pyrazine as a yellow solid 2.27 g (60% yield). LC@215 nm; Rt 2.72: 100%, m/z (ES+): 313 (M+H).

reactant | Sodium hydride | 25.6 mmol, 0.98 g | [H-].[Na+]
reactant | 5-bromo-3-cyclobutylmethoxy-pyrazin-2-ylamine | 12.2 mmol, 3.1 g | BrC=1N=C(C(=NC1)N)OCC1CCC1 | C9H12BrN3O
reactant | 1-bromo-4-chlorobutane | 13.4 mmol, 1.5 mL | BrCCCCCl | C4H8BrCl
solvent | N,N-dimethylformamide | 60 mL | CN(C=O)C | C3H7NO
product | 5-bromo-3-cyclobutylmethoxy-2-pyrrolidin-1-yl-pyrazine | 2.27 g, 60% yield | BrC=1N=C(C(=NC1)N1CCCC1)OCC1CCC1 | C13H18BrN3O
